US06080743
a2) 5-Methyl-7-nitro-quinoxaline-2,3-dione
A mixture of 9.3 g (55.63 mmol) of 2,3-diamino-5-nitro-toluene and 14 g of oxalic acid in 93 ml of 6N HCl is heated at reflux for 30 minutes and then stirred at room temperature overnight to complete the reaction. The suspension is filtered and then washed with water, taken up in 250 ml of 2N NaOH and heated at reflux until a homogeneous solution is formed. After cooling, the mixture is acidified to pH 3 and the resulting 5-methyl-7-nitro-quinoxaline-2,3-dione is filtered off.

reactant | 2,3-diamino-5-nitro-toluene | 55.63 mmol, 9.3 g | NC1=C(C=C(C=C1N)[N+](=O)[O-])C | C7H9N3O2
reactant | oxalic acid | 14 g | C(C(=O)O)(=O)O | C2H2O4
solvent | HCl | 6N, 93 ml | Cl | ClH
product | 5-Methyl-7-nitro-quinoxaline-2,3-dione | CC=1C2=NC(C(N=C2C=C(C1)[N+](=O)[O-])=O)=O | C9H5N3O4
